US06252042B1
Preparation of N-ethoxycarbonylethylenediamine
15 g (0.13 mol) of diethyl carbonate are heated in an oil bath at 90° C., for five hours, with 10 g (0.17 mol) of ethylenediamine under reflux. The ethyl alcohol formed during the reacton is then removed using a rotary evaporator. The product is removed from the residue by distillation in a Kugelrohr distillation apparatus.

reactant | diethyl carbonate | 0.13 mol, 15 g | C(OCC)(OCC)=O | C5H10O3
reactant | ethylenediamine | 0.17 mol, 10 g | C(CN)N | C2H8N2
solvent | ethyl alcohol | C(C)O | C2H6O
product | N-ethoxycarbonylethylenediamine | C(C)OC(=O)NCCN | C5H12N2O2
